US06476057B1
The 3-[(3-fluorophenyl)amino]-1,1,1-trifluoro-2-propanol (446 mg, 2.0 mmol) from EX-662A and triethylamine (544 mg) were dissolved in anhydrous CHCl3 (30 mL) and cooled to 0° C. Then a solution of 3-trifluoromethylbenzoyl chloride (1.04 g, 5.0 mmol) in anhydrous CHCl3 (6 mL) was added over a period of 15 min. The solution was stirred at room temperature. After 14 h, the solution was washed with 5% NaHCO3 (2×20 mL) and brine (2×10 mL), and then dried over anhydrous MgSO4. Removal of the solvent in vacuo gave 832 Mg (73%) of the desired 2,2,2-trifluoro-1-[[(3-fluoro-phenyl)[3-(trifluoromethyl)benzoyl]amino]methyl]ethyl 3-trifluoromethyl-benzoate product as an amber oil, which was greater than 95% pure by reverse phase HPLC analysis. 1H NMR (CDCl3) δ7.25-8.39 (m, 9H), 7.02 (q, 1H), 6.71 (m, 2H), 6.11 (m, 1H), 4.58 (dd, 1H), 4.35 (dd, 1H). 19H NMR (CDCl3) δ−64.4 (m, 6F), −77.4 (s, 3F), −111.3 (m, 1F). HRMS calcd. for C25H15F10NO3: 568.0970 [M+H]+, found: 568.0968.

reactant | 3-[(3-fluorophenyl)amino]-1,1,1-trifluoro-2-propanol | 2.0 mmol, 446 mg | FC=1C=C(C=CC1)NCC(C(F)(F)F)O | C9H9F4NO
reactant | triethylamine | 544 mg | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethylbenzoyl chloride | 5.0 mmol, 1.04 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 6 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,2,2-trifluoro-1-[[(3-fluoro-phenyl)[3-(trifluoromethyl)benzoyl]amino]methyl]ethyl 3-trifluoromethyl-benzoate | FC(C=1C=C(C(=O)OC(C(F)(F)F)CN(C(C2=CC(=CC=C2)C(F)(F)F)=O)C2=CC(=CC=C2)F)C=CC1)(F)F | C25H15F10NO3
